US04977155
A mixture of 0,5 g (2,6 mmol) 5,6-diamino-2,3-dihydroxyquinoxaline and 20 ml water was added 0,6 ml (3,9 mmol) 40% aqueous glyoxal and 0,41 g (3,9 mmol) sodium carbonate. The reaction mixture was stirred at 50° C. for 1,5 h. After cooling to 25° C., the precipitate was filtered off and washed with water to give 0,49 g. The crude product was dissolved in 2N sodium hydroxide and reprecipitated with 2N hydrochloric acid to pH 6-7 to give 0,2 g (36%) 2,3-dihydroxypyrazino(2,3-f)quinoxaline, m.p.>300° C. NMR (DMSO-d6): 8.30 (1H,d), 8.20 (1H,d), 7.27 (1H,d), 7.0 (1H,d).

reactant | 5,6-diamino-2,3-dihydroxyquinoxaline | 2,6 mmol, 0,5 g | NC1=C2N=C(C(=NC2=CC=C1N)O)O | C8H8N4O2
reactant | water | 20 ml | O | H2O
reactant | glyoxal | 3,9 mmol, 0,6 ml | C(=O)C=O | C2H2O2
reactant | sodium carbonate | 3,9 mmol, 0,41 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | sodium hydroxide | 2N | [OH-].[Na+]
product | 2,3-dihydroxypyrazino(2,3-f)quinoxaline | 0,2 g, 36% | OC=1C(=NC=2C(=C3N=CC=NC3=CC2)N1)O | C10H6N4O2
